US04021461
To a mixture of 1.5 g. of dihydrocitronellal, 2.7 g. of diethyl 3-ethoxycarbonyl-2-methylprop-2-enyl phosphonate and 5 ml. of dimethylformamide, under nitrogen and at 0°, with stirring, is added slowly sodium methoxide (250 mg. sodium and 5 ml. of methanol). After addition is complete, the reaction is left two hours at room temperature and then worked up by extraction with ether/hexane to yield methyl 3,7,11-trimethyldodeca-2,4-dienoate.

reactant | dihydrocitronellal | CC(C)CCCC(C)CC=O | C10H20O
reactant | sodium methoxide | 5 ml, 250 mg | C[O-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 3,7,11-trimethyldodeca-2,4-dienoate | CC(=CC(=O)OC)C=CCC(CCCC(C)C)C | C16H28O2
